US05057614
0.30 g of 3-(1-methyl-3-indolyl)-4-(3-methylphenyl) furan-2,5-dione was treated with 8 ml of DMF and 60 ml of 33% aqueous ammonia and heated at 150° C. for 5 hours and then allowed to cool. The formed precipitate was filtered off, washed with water and dried to give 162 mg of 3-(1-methyl-3-indolyl)-4-(3-methylphenyl)-1H-pyrrole-2,5-dione, m.p. 243° C.

reactant | 3-(1-methyl-3-indolyl)-4-(3-methylphenyl) furan-2,5-dione | 0.30 g | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CC(=CC=C1)C)=O)=O | C20H15NO3
reactant | ammonia | 60 ml | N | H3N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 3-(1-methyl-3-indolyl)-4-(3-methylphenyl)-1H-pyrrole-2,5-dione | 162 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)C)=O)=O | C20H16N2O2
